US07247626B2
To a slurry of 2-(4-fluorophenyl)-7-(methylsulfanyl)pyrazolo[1,5-c]pyrimidine (1.5 g, 5.9 mmol) in acetic anhydride (10 mL) was added 4 drops of sulfuric acid. The reaction mixture was heated to 80° C. for 2 hours, to 110° C. for 2 hours, and to reflux for 2 hours. The solution was allowed to cool to room temperature and stirred for 4 days. The mixture was poured into water (350 mL) and extracted with ethyl acetate (2×75 mL). The organic phase was washed with brine and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with 2:98 acetone:dichloromethane to yield 1-[2-(4-fluorophenyl)-7-(methylsulfanyl)pyrazolo[1,5-c]pyrimidin-3-yl]ethanone (1.24 g, 70%). 1H NMR (DMSO): δ 8.12 (d, 1H), 7.98 (d, 1H), 7.65 (dd, 2H), 7.24 (m, 2H), 2.77 (s, 3H), 2.23 (s, 3H). MS m/z302 (M+1).

reactant | 2-(4-fluorophenyl)-7-(methylsulfanyl)pyrazolo[1,5-c]pyrimidine | 5.9 mmol, 1.5 g | FC1=CC=C(C=C1)C1=NN2C(=NC=CC2=C1)SC | C13H10FN3S
reactant | water | 350 mL | O | H2O
reactant | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | 4 drops | S(O)(O)(=O)=O | H2O4S
product | 1-[2-(4-fluorophenyl)-7-(methylsulfanyl)pyrazolo[1,5-c]pyrimidin-3-yl]ethanone | 1.24 g, 70% | FC1=CC=C(C=C1)C1=NN2C(=NC=CC2=C1C(C)=O)SC | C15H12FN3OS
